US04826866
5-Methyl-3-[(2,6-dimethylphenyl)amino]-1H-pyrazole-4-carboxylic acid, ethyl ester
A mixture of 9.8 g (0.05 mole) of 4-(2,6-dimethylphenyl)-3-thiosemicarbazide and 8.48 g (0.05 mole) of ethyl 2-chloroacetoacetate (97%) in 75 mL of absolute ethanol was stirred under nitrogen atmosphere for one hour at room temperature. The reaction was slightly exothermic and the mixture changed from a white slurry to a yellow slurry as most of the solid dissolved. The mixture was treated with 40 mL of 2N ethanolic hydrogen chloride and allowed to stir at room temperature for 16 hr. The reaction mixture was heated at reflux for two hours; during this time it took on a dark orange color which cleared later as all the material dissolved (a small amount of insoluble material was also present). The reaction mixture was filtered and the solvent removed under reduced pressure leaving a yellow-orange solid. The solid was triturated with acetone which dissolved most of the orange color. Filtration gave 12.6 g of pale yellow crystals, mp 131°-137° C. Recrystallization of the yellow solid from acetone gave two crops of soft, fluffy, white product. Both crops were combined and analyzed, yield 8.5 g (62%), mp 142°-144° C.

reactant | 4-(2,6-dimethylphenyl)-3-thiosemicarbazide | 0.05 mole, 9.8 g | CC1=C(C(=CC=C1)C)NC(NN)=S | C9H13N3S
reactant | ethyl 2-chloroacetoacetate | 0.05 mole, 8.48 g | ClC(C(=O)OCC)C(=O)C | C6H9ClO3
reactant | hydrogen chloride | 2N, 40 mL | Cl | ClH
solvent | ethanol | 75 mL | C(C)O | C2H6O
product | 5-Methyl-3-[(2,6-dimethylphenyl)amino]-1H-pyrazole-4-carboxylic acid, ethyl ester | 12.6 g | CC1=C(C(=NN1)NC1=C(C=CC=C1C)C)C(=O)OCC | C15H19N3O2
